US09079839B2
Synthesis of (S)-2-(benzyloxy-methyl)-3-methyl-butyl bromide
Dissolve (R)-2-(benzyloxy-methyl)-3-methyl butanol (15.6 g, 75 mmol) and N,N-dimethyl formamide (0.6 g, 8.25 mmol) in methyl benzene (351 ml), add phosphorus oxybromide (25.8 g, 90 mmol) in droplets slowly, and control the temperature below 60° C. in that process; then, let them to react at 80° C. for 2 hours; cool down to room temperature, add water (702 ml), stir for 20 minutes, and separate the layers; extract the aqueous layer with petroleum ether for three cycles, combine the organic layers and wash twice with saturated sodium bicarbonate and saturated sodium chloride respectively; dry the organic layer with anhydrous sodium sulfate, filter, and condense the filtrate so as to obtain 17.5 g of oily matter; treat the oil matter by reduced pressure distillation to obtain 16.1 g of colorless transparent liquid; the yield is 79.2%, and the chiral purity is ≧99.9%.

reactant | (R)-2-(benzyloxy-methyl)-3-methyl butanol | 75 mmol, 15.6 g | C(C1=CC=CC=C1)OC[C@@H](CO)C(C)C | C13H20O2
reactant | N,N-dimethyl formamide | 8.25 mmol, 0.6 g | CN(C=O)C | C3H7NO
reactant | phosphorus oxybromide | 90 mmol, 25.8 g | P(=O)(Br)(Br)Br | Br3OP
reactant | water | 702 ml | O | H2O
solvent | methyl benzene | 351 ml | CC1=CC=CC=C1 | C7H8
product | (S)-2-(benzyloxy-methyl)-3-methyl-butyl bromide | 16.1 g, yield is 79.2% | C(C1=CC=CC=C1)OC[C@@H](CBr)C(C)C | C13H19BrO
